US08314088B2
3-(2,5-dimethyl-1H-pyrrol-1-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine hydrochloride
To a solution of 8-benzyl-3-(2,5-dimethyl-1H-pyrrol-1-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine (60 mg) in methanol (4 mL) was added 20% Pd(OH)2/C (10 mg), and the mixture was stirred under a hydrogen atmosphere at 50° C. for 2 hr. The reaction mixture was filtered, and the filtrate was concentrated. To a solution of the obtained crude product in ethyl acetate (4 mL) was added a 4 N hydrogen chloride-ethyl acetate solution (50 μL), and the mixture was stirred for 30 min. The reaction mixture was filtered to give the title compound (28 mg, 56%) as a brown powder.

reactant | 8-benzyl-3-(2,5-dimethyl-1H-pyrrol-1-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 60 mg | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)N2C(=CC=C2C)C | C20H22N4O
reactant | hydrogen chloride-ethyl acetate | 4 N, 50 μL | C(C)(=O)OCC.Cl
solvent | methanol | 4 mL | CO | CH4O
catalyst | Pd(OH)2/C | 10 mg | [OH-].[OH-].[Pd+2]
product | 3-(2,5-dimethyl-1H-pyrrol-1-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine hydrochloride | 28 mg, 56% | Cl.CC=1N(C(=CC1)C)C1=NC2=C(CNCCO2)N=C1 | InChI=1S/C13H16N4O.ClH/c1-9-3-4-10(2)17(9)12-8-15-11-7-14-5-6-18-13(11)16-12;/h3-4,8,14H,5-7H2,1-2H3;1H
